US06090877
Bis (2,4-di-t-butylphenyl) pentaerythritol diphosphite (Ultranox 626, GE Specialty Chemicals);
tris (2,4-di-tert-butylphenyl) phosphite (Irgafos 168, Ciba); 2-[[2,4,8,10-tetrakis(1,1-dimethylethyl)dibenzo[d,f][1,3,2]dioxaphosphepin-6-yl]oxy]-N,N-bis[2-[[2,4,8,10-tetrakis(1,1-dimethylethyl)dibenzo[d,f][1,3,2]dioxaphosphepin-6-yl]oxy]-ethyl]ethanamine (Irgafos 12, Ciba), 2,4,6 tri-t-butylphenyl 2 butyl 2 ethyl 1,3 propane diphosphite (Ultranox 641, GE Specialty Chemicals); bis(2,4-dicumylphenyl) pentaerythritol diphosphite (Doverphos S-9228, Dover Chemical Corporation); bis(2,6-di-t-butyl-4-methylphenyl)pentaerythritol-di-phosphite (PEP-36, Amfine Chemical); reaction product of phosphorous trichloride with 1,1'-biphenyl and 2,4 bis (1,1'-dimethyl) phenol (Sandostab P-EPQ, Clariant), 2,4,6 tri-t-butylphenyl 2 butyl 2 ethyl 1,3 propane diphosphite (Ultranox 641, GE Specialty Chemicals); distearyl pentaerythritol diphosphite (Weston 619, GE Specialty Chemicals).

reactant | tris (2,4-di-tert-butylphenyl) phosphite | P(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C | C42H63O3P
reactant | 2-[[2,4,8,10-tetrakis(1,1-dimethylethyl)dibenzo[d,f][1,3,2]dioxaphosphepin-6-yl]oxy]-N,N-bis[2-[[2,4,8,10-tetrakis(1,1-dimethylethyl)dibenzo[d,f][1,3,2]dioxaphosphepin-6-yl]oxy]-ethyl]ethanamine | CC(C)(C)C1=CC2=C(OP(OC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)OCCN(CCOP3OC2=C(C4=C(O3)C(=CC(=C4)C(C)(C)C)C(C)(C)C)C=C(C=C2C(C)(C)C)C(C)(C)C)CCOP2OC4=C(C3=C(O2)C(=CC(=C3)C(C)(C)C)C(C)(C)C)C=C(C=C4C(C)(C)C)C(C)(C)C)C(=C1)C(C)(C)C | C90H132NO9P3
reactant | bis(2,4-dicumylphenyl) pentaerythritol diphosphite | OP(O)OP(O)O.C(C)(C)(C1=CC=CC=C1)C1=C(C=CC(=C1)C(C)(C)C1=CC=CC=C1)C(O)(C(CO)(CO)CO)C1=C(C=C(C=C1)C(C)(C)C1=CC=CC=C1)C(C)(C)C1=CC=CC=C1
reactant | phosphorous trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | 1,1'-biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | Ultranox 641 | CCCCC1(COP(OC1)OC2=C(C=C(C=C2C(C)(C)C)C(C)(C)C)C(C)(C)C)CC | C27H47O3P
reactant | distearyl pentaerythritol diphosphite | OP(O)OP(O)O.C(CCCCCCCCCCCCCCCCC)C(O)(C(CO)(CO)CO)CCCCCCCCCCCCCCCCCC
product | Bis (2,4-di-t-butylphenyl) pentaerythritol diphosphite | OP(O)OP(O)O.C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)C(O)(C(CO)(CO)CO)C1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C | InChI=1S/C33H52O4.H4O5P2/c1-28(2,3)22-13-15-24(26(17-22)30(7,8)9)33(37,32(19-34,20-35)21-36)25-16-14-23(29(4,5)6)18-27(25)31(10,11)12;1-6(2)5-7(3)4/h13-18,34-37H,19-21H2,1-12H3;1-4H
